US09382238B2
To a mixture of N-(3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (50 mg, 0.081 mmol) in DCM (10 mL) was added TFA (1 mL, 12.98 mmol). The mixture was stirred at 25° C. for 2 h. The mixture was concentrated and NH4OH (0.5 mL) was added. Then the reaction residue was concentrated and purified by preparative HPLC (Column: ASB C18 150*25 mm; Mobile phase A: Water+0.1% HCl; Mobile phaseB: MeCN; Flowrate: 25 mL/min; Gradient Profile Description: 40-70 (B %)) to yield an off-white solid of N-(3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide hydrochloride (6.95 mg, 0.013 mmol, 15.9% yield): 1H NMR (400 MHz, CD3OD) δ 8.16 (s, 2H), 8.06 (s, 1H), 7.82 (s, 1H), 7.62 (s, 1H), 7.48-7.42 (m, 1H), 7.41-7.34 (m, 3H), 7.33 (s, 1H), 4.15 (q, J=7.2 Hz, 2H), 3.84 (s, 2H), 1.46 (t, J=7.2 Hz, 3H). ES-LCMS m/z 501.2 (M+H). TLC (DCM/MeOH=10:1, Rf=0.2)

reactant | N-(3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.081 mmol, 50 mg | N1N=CC(=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O | C33H28F4N4O4
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide hydrochloride | 0.013 mmol, 6.95 mg, 15.9% yield | Cl.N1N=CC(=C1)C=1C=C(C=C(C1)C(F)(F)F)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O | InChI=1S/C25H20F4N4O3.ClH/c1-2-36-22-8-17(11-30-24(22)35)14-3-4-15(21(26)7-14)9-23(34)33-20-6-16(18-12-31-32-13-18)5-19(10-20)25(27,28)29;/h3-8,10-13H,2,9H2,1H3,(H,30,35)(H,31,32)(H,33,34);1H
